US07319083B2
A solution containing 2,6-diacetylpyridine (0.30 g, 1.84 mmol), 4-allyl-2,6-diisopropylaniline (0.80 g, 3.68 mmol), and formic acid (2 ml) in 30 ml dry methanol was refluxed under argon for 14 hours. Yellow solid was collected by filtration and washed with cold methanol (3×5 ml). Recrystallization from CH2Cl2:hexane (1:4) yielded 0.70 g (68%) of yellow, 2,6-bis[1-(4-allyl-2,6-diisopropylphenylimino)ethyl]pyridine crystals. IR (KBr): v(C═N) 1639 cm−1. 1H-NMR (CDCl3): 8.47(d, 2H, Py-Hm), 7.92(t, 1H, Py-Hp), 6.98(s, 4H, Ph-Hm), 6.04(m, 2H, CH═C), 5.12(m, 4H, C═CH2), 3.40(d, 4H, CH2—C═C), 2.75(m, 4H, CH(Me)2), 2.27(s, 6H, CH3), 1.15(d, 24H, C(CH3)2); 13C-NMR(CDCl3): 167.04(C═N), 155.15(Py-C), 144.57(Ph-C), 138.12(Ph-C), 136.79(Py-C), 135.69(Ph-C), 134.75(—CH═), 123.16(Py-C), 122.12(Ph-C), 115.34(═CH2), 40.25(—CH2—), 28.31(C(Me)2), 23.24(CH3), 22.92(CH3), 17.14(CH3). C39H51N3 (561.86 g·mol-1): Anal. Calcd: C, 83.37; H, 9.15; N, 7.48. Found: C, 83.03; H, 9.13; N, 7.55.

reactant | 2,6-diacetylpyridine | 1.84 mmol, 0.30 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | 4-allyl-2,6-diisopropylaniline | 3.68 mmol, 0.80 g | C(C=C)C1=CC(=C(N)C(=C1)C(C)C)C(C)C | C15H23N
reactant | formic acid | 2 ml | C(=O)O | CH2O2
solvent | methanol | 30 ml | CO | CH4O
product | 2,6-bis[1-(4-allyl-2,6-diisopropylphenylimino)ethyl]pyridine | C(C=C)C1=CC(=C(C(=C1)C(C)C)N=C(C)C1=NC(=CC=C1)C(C)=NC1=C(C=C(C=C1C(C)C)CC=C)C(C)C)C(C)C | C39H51N3
